US09145354B2
Step 2 [6-Chloro-2-fluoro-3-(1-hydroxy-propyl)-phenyl]-phenyl-methanone (760 mg; 2.6 mmol) was dissolved in DCM (20 ml), treated with triphenylphosphine (1.095 g; 1.6 equiv.) and carbon tetrabromide (1.275 g; 1.5 equiv.) and stirred at room temperature overnight. The reaction mixture was evaporated then purified by flash column chromatography eluting with 0 to 20% EtOAc/petroleum ether. Product containing fractions were combined and evaporated to give 650 mg of [3-(1-Bromo-propyl)-6-chloro-2-fluoro-phenyl]-phenyl-methanone as a colourless gum. 1H NMR (400 MHz, DMSO-d6): 7.89-7.69 (4H, m), 7.69-7.54 (3H, m), 5.34 (1H, dd), 2.38-2.12 (2H, m), 0.99 (3H, t).

reactant | [6-Chloro-2-fluoro-3-(1-hydroxy-propyl)-phenyl]-phenyl-methanone | 2.6 mmol, 760 mg | ClC1=CC=C(C(=C1C(=O)C1=CC=CC=C1)F)C(CC)O | C16H14ClFO2
reactant | triphenylphosphine | 1.095 g, 1.6 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 1.275 g, 1.5 equiv. | C(Br)(Br)(Br)Br | CBr4
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | [3-(1-Bromo-propyl)-6-chloro-2-fluoro-phenyl]-phenyl-methanone | 650 mg | BrC(CC)C=1C(=C(C(=CC1)Cl)C(=O)C1=CC=CC=C1)F | C16H13BrClFO
